US07825119B2
Stage a)—Synthesis of tert-butyl 2-(3-benzo[1,3]dioxol-5-yl-ureido)-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino}-propionate
34 mg (0.207 mmoles) of 5-isocyanato-benzo[1,3]dioxole in solution in 3 ml of tetrahydrofuran is added to 120 mg (0.207 mmoles) of tert-butyl 2-amino-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino}-propionate in solution in 5 ml of tetrahydrofuran. The reaction mixture is stirred at ambient temperature for 3 hours and 30 minutes. Then, the solvent is evaporated off under reduced pressure (2 kPa) and the residue is chromatographed on silica gel with the following eluent: 100% ethyl acetate, ethyl acetate-dichloromethane/methanol (95/5) 50-50, ethyl acetate-dichloromethane/methanol (90-10) 50-50 and finishing with ethyl acetate/methanol (95-5). 60 mg of expected product is obtained.

reactant | 5-isocyanato-benzo[1,3]dioxole | 0.207 mmoles, 34 mg | N(=C=O)C1=CC2=C(OCO2)C=C1 | C8H5NO3
reactant | tert-butyl 2-amino-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino}-propionate | 0.207 mmoles, 120 mg | NC(C(=O)OC(C)(C)C)CNC1=NC=NC(=C1CC)N1CCC(CC1)C1=NC=2NCCCC2C=C1 | C26H39N7O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-butyl 2-(3-benzo[1,3]dioxol-5-yl-ureido)-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino}-propionate | 60 mg | O1COC2=C1C=CC(=C2)NC(NC(C(=O)OC(C)(C)C)CNC2=NC=NC(=C2CC)N2CCC(CC2)C2=NC=1NCCCC1C=C2)=O | C34H44N8O5
